US07662972B2
Step 3: Production of 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-2-methoxy benzoic acid ethyl ester
In a solution of 1.50 g of 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-2-methoxyphenyl trifluoromethane sulfonate in 25 ml of ethanol in an autoclave, 0.27 g of sodium acetate, 31.0 mg of 1,1′-bis(diphenylphosphino) ferrocene and 7.0 mg of palladium (II) acetate were added, and stirred under 0.96 MPa carbon monoxide atmosphere at 100° C. for 2 hours. After the completion of the reaction, the reaction mixture was left and cooled to room temperature, and the reaction mixture was poured in 100 ml of ice water, extracted with ethyl acetate (40 ml×2). The organic phases together were dehydrated with saturated sodium chloride aqueous solution and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified with silica gel column chromatography that was eluated with ethyl acetate-hexane (1:5), and 1.20 g of the aimed product was obtained as white crystal.

reactant | 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-2-methoxyphenyl trifluoromethane sulfonate | 1.50 g | FC(S(=O)(=O)OC1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)OC)(F)F | C18H11Cl2F6NO5S
reactant | sodium acetate | 0.27 g | C(C)(=O)[O-].[Na+]
reactant | carbon monoxide | [C]=O | CO
reactant | ethanol | 25 ml | C(C)O | C2H6O
catalyst | 1,1′-bis(diphenylphosphino) ferrocene | 31.0 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | palladium (II) acetate | 7.0 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-2-methoxy benzoic acid ethyl ester | 1.20 g | C(C)OC(C1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)OC)=O | C20H16Cl2F3NO4
